US04179505
A stirred mixture of 5.03 parts of 5-[4-(diphenylmethyl)-1-piperazinylmethyl]-2-phenyl-1H-benzimidazole-1-ethanol and 75 parts of trichloromethane is acidified by the introduction of gaseous hydrogen chloride. Then there are added dropwise 2.4 parts of thionyl chloride at room temperature. Upon completion, stirring is continued for 20 minutes at reflux. The reaction mixture is evaporated. 100 Parts of water are added to the residue and the whole is alkalized with sodium hydrogen carbonate. The product is extracted with dichloromethane. The extract is washed with water, dried, filtered and evaporated. The residue is purified by columnchromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from methylbenzene. The product is filtered off and dried, yielding 3.1 parts of 1-(2-chloroethyl)-5-[4-(diphenylmethyl)-1-piperazinylmethyl]-2-phenyl-1H-benzimidazole; mp. 173.8°-179.6° C.

reactant | 5-[4-(diphenylmethyl)-1-piperazinylmethyl]-2-phenyl-1H-benzimidazole-1-ethanol | C1(=CC=CC=C1)C(N1CCN(CC1)CC1=CC2=C(N(C(=N2)C2=CC=CC=C2)CCO)C=C1)C1=CC=CC=C1 | C33H34N4O
reactant | hydrogen chloride | Cl | ClH
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | 1-(2-chloroethyl)-5-[4-(diphenylmethyl)-1-piperazinylmethyl]-2-phenyl-1H-benzimidazole | ClCCN1C(=NC2=C1C=CC(=C2)CN2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC=CC=C2 | C33H33ClN4
